US06818655B2
b) 3-(4-Methoxy-quinolin-2-ylamino)-2-methyl-propionamide
A slurry of ammonium chloride (0.38 g, 7.11 mmol) in dry methylene chloride (20 mL) at 0° C. was treated with trimethylaluminum (1 eq, 7.11 mmol, 3.6 mL of a 2M solution in toluene). The mixture was allowed to warm to room temperature over a period of two hours, at which time a solution of 3-(4-methoxy-quinolin-2-ylamino)-2-methyl-propionic acid methyl ester (0.33 eq, 2.37 mmol, 0.65 g) in dry methylene chloride (5 mL) was added. The solution stirred at room temperature for two hours, then was quenched slowly by addition of concentrated HCl (1 mL). After stirring for an additional 30 minutes, the mixture was diluted with 10% NaOH (30 mL) and brine (20 mL) and extracted into methylene chloride. The organic extracts were dried over Na2SO4, filtered and concentrated to an oil. Purification via column chromatography on silica (95:5 methylene chloride/methanolic ammonia) provided the product (0.29 g, 48%) as a white solid. [M+H]+ 260.

reactant | ammonium chloride | 7.11 mmol, 0.38 g | [Cl-].[NH4+]
reactant | trimethylaluminum | C[Al](C)C
reactant | 3-(4-methoxy-quinolin-2-ylamino)-2-methyl-propionic acid methyl ester | 2.37 mmol, 0.65 g, 0.33 eq | COC(C(CNC1=NC2=CC=CC=C2C(=C1)OC)C)=O | C15H18N2O3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Methoxy-quinolin-2-ylamino)-2-methyl-propionamide | 0.29 g, 48% | COC1=CC(=NC2=CC=CC=C12)NCC(C(=O)N)C | C14H17N3O2
